US08629270B2
5-[(4aR,7aR)-2-Amino-6-[5-fluoro-4-(2-hydroxypropan-2-yl)pyrimidin-2-yl]-4a,5,6,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a(4H)-yl]thiophene-2-carbonitrile
To a stirred solution of N-{(4aR,7aR)-7a-(5-cyanothiophen-2-yl)-6-[5-fluoro-4-(2-hydroxypropan-2-yl)pyrimidin-2-yl]-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-yl}benzamide (364 mg, 0.697 mmol) in ethanol (14 mL) is added pyridine (563 μL, 6.96 mmol) and O-methylhydroxylamine hydrochloride (582 mg, 6.96 mmol). The solution is heated to 55° C. under an atmosphere of nitrogen for 21 hours. The resulting solution is allowed to cool for a few minutes then concentrated under reduced pressure. Dichloromethane (30 mL) is added and again the solution is concentrated under reduced pressure. The residue is diluted with ethyl acetate (50 mL), water (25 mL), and saturated aqueous sodium bicarbonate (10 mL). The phases are separated and the ethyl acetate phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel chromatography, eluting with dichloromethane/ethyl acetate, 70:30 for 20 minutes, and then a gradient to 0:100 to give the title compound (261 mg, 90%) as a white foam. MS/ES (m/z) 419.0 (M+H).

reactant | N-{(4aR,7aR)-7a-(5-cyanothiophen-2-yl)-6-[5-fluoro-4-(2-hydroxypropan-2-yl)pyrimidin-2-yl]-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-yl}benzamide | 0.697 mmol, 364 mg | C(#N)C1=CC=C(S1)[C@@]12N=C(SC[C@@H]1CN(C2)C2=NC=C(C(=N2)C(C)(C)O)F)NC(C2=CC=CC=C2)=O | C25H23FN6O2S2
reactant | pyridine | 6.96 mmol, 563 μL | N1=CC=CC=C1 | C5H5N
reactant | O-methylhydroxylamine hydrochloride | 6.96 mmol, 582 mg | Cl.CON
solvent | ethanol | 14 mL | C(C)O | C2H6O
product | 5-[(4aR,7aR)-2-Amino-6-[5-fluoro-4-(2-hydroxypropan-2-yl)pyrimidin-2-yl]-4a,5,6,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a(4H)-yl]thiophene-2-carbonitrile | 261 mg, 90% | NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC=C(C(=N2)C(C)(C)O)F)C2=CC=C(S2)C#N | C18H19FN6OS2
